US08383644B2
To a solution of (4-hydroxy-phenyl)-oxo-acetaldehyde (756 mg) in dry DMF (10 mL) were added 3,4-dichlorobenzylbromide (1.2 g) and potassium carbonate (1.03 g). After 4 hours, the reaction mixture was poured into water (100 mL) and extracted with ethyl acetate (2×50 mL). The organic extracts were then combined and washed with brine (2×50 mL) and a saturated sodium bicarbonate solution (2×50 mL). The organic layer was dried over sodium sulfate and concentrated under reduced pressure to give [4-(3,4-dichloro-benzyloxy)-phenyl]-oxo-acetaldehyde (1.3 g).

reactant | (4-hydroxy-phenyl)-oxo-acetaldehyde | 756 mg | OC1=CC=C(C=C1)C(C=O)=O | C8H6O3
reactant | 3,4-dichlorobenzylbromide | 1.2 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
reactant | potassium carbonate | 1.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [4-(3,4-dichloro-benzyloxy)-phenyl]-oxo-acetaldehyde | 1.3 g | ClC=1C=C(COC2=CC=C(C=C2)C(C=O)=O)C=CC1Cl | C15H10Cl2O3
